US06117293
Preparation of N-(2-hydroxyethyl)methacrylamide (HEMAA)
To a 500 mL, four-neck round bottom flask equipped with a mechanical stirrer, a thermometer, a 200 mL dropping funnel, and a nitrogen inlet/outlet, 48.8 g of ethanolamine (0.8 moles), 80 mg of 4-methoxyphenol and 100 mL of acetonitrile were added. The mixture was cooled below 0° C. with an ice/water bath. To this solution, 41.8 g of freshly distilled methacryloyl chloride (0.4 mole) in 100 mL of acetonitrile was added through the dropping funnel. The addition rate was controlled so that the reaction temperature was kept below 0° C. At the end of addition, the pH of the reaction mixture was adjusted to 7 with either methacryloyl chloride or ethanolamine solution. While keeping the reaction solution cold (below 5° C.), the ethanol-amine HCl salts were filtered out. To the filtrate, 200 mL of deionized water and 40 g of Dowex MR-3C resin, which was pre-washed with two bed volumes of 1/1 ratio acetonitrile/water mixture for three times, were added. The resin was removed by filtration after agitating for one hour. The filtrate was concentrated to about 160 g by vacuum distillation. The final solution has the following properties: HPLC and FT-1R analysis indicates there is no ester formation; HEMAA concentration: 23.5% (wt/wt); pH=6.9 at 25° C; Conductivity=3.9 μS/cm at 25° C.; Viscosity=1.9 cPs at 25° C. The yield of HEMAA was about 73%.

reactant | ethanolamine | 0.8 moles, 48.8 g | C(O)CN | C2H7NO
reactant | 4-methoxyphenol | 80 mg | COC1=CC=C(C=C1)O | C7H8O2
reactant | methacryloyl chloride | 0.4 mole | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-(2-hydroxyethyl)methacrylamide | OCCNC(C(=C)C)=O | C6H11NO2
